US06307047B1
2-(4-Fluorophenyl-4-(3-methyl-3-butenoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 335, substituting 2-(4-fluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-(3-chlorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone and substituting 3-methyl-3-butene-1-ol in place of isobutanol (yield: 0.1327 g, 91%). mp 109-111° C. 1H NMR (300 MHz, DMSO d6) δ 1.61 (s, 3H), 2.32 (t, J=7 Hz, 2H), 3.30 (s, 3H), 4.56 (t, J=7 Hz, 2H), 4.63 (bs, 1H), 4.68 (bs, 1H), 7.37 (m, 2H), 7.66 (m, 2H), 7.90 (m, 2H), 8.05 (m, 2H), 8.19 (s, 1H). MS (DCI/NH3) m/z 429 (M+H)+, 446 (M+NH4)+. Anal. calc. for C22H21FN2O4S: C, 61.67; H, 4.94; N, 6.54. Found: C, 61.50; H, 5.00; N, 6.45.

reactant | 2-(4-fluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H19FN2O6S2
reactant | 3-methyl-3-butene-1-ol | CC(CCO)=C | C5H10O
reactant | NH3 | N | H3N
product | 4-Fluorophenyl-4-(3-methyl-3-butenoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)OCCC(=C)C)C1=CC=C(C=C1)S(=O)(=O)C | C22H21FN2O4S
